US05506351
N2-Isobutyryl-2'-O-(imidazol-1-yl)butylguanosine
2'-O-(imidazol-1-yl)butylguanosine in pyridine will be treated with trimethylsilyl chloride (5 eq) and isobutyryl chloride (5 eq) as per the procedure of Example 4 to yield the product.

reactant | 2'-O-(imidazol-1-yl)butylguanosine | N1(C=NC=C1)CCCCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C17H23N7O5
reactant | trimethylsilyl chloride | 5 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | isobutyryl chloride | 5 eq | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N2-Isobutyryl-2'-O-(imidazol-1-yl)butylguanosine | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3[C@H](OCCCCN4C=NC=C4)[C@H](O)[C@@H](CO)O3)C2N1)=O | C21H29N7O6
